US08426590B2
Doxazosin base (0.110 mol; 49.61 g) was charged in acetone (750 ml) and stirred at 25° C. to obtain slurry. On cooling the slurry to 10-15° C., hydrochloric acid solution was added till the pH was 2-3. The contents were stirred for 10-15 min at 10-15° C. and then stirring continued at 25° C. for 2 hr. The solid obtained was filtered, washed with acetone and dried at 50-55° C. to obtain solid product. The solid was purified by refluxing with methanol (600 ml) for 1 hr. The slurry was cooled to room temperature, filtered, washed with methanol and then dried at 60° C. under reduced pressure to obtain 51 g of pure doxazosin hydrochloride (HPLC purity −99.77%).

reactant | Doxazosin | 0.110 mol, 49.61 g | COC=1C=C2C(=CC1OC)N=C(N=C2N)N3CCN(CC3)C(=O)C4COC=5C=CC=CC5O4 | C23H25N5O5
reactant | hydrochloric acid | Cl | ClH
solvent | acetone | 750 ml | CC(=O)C | C3H6O
product | doxazosin hydrochloride | 51 g | COC1=C(C=C2C(=C1)C(=NC(=N2)N3CCN(CC3)C(=O)C4COC5=CC=CC=C5O4)N)OC.Cl | InChI=1S/C23H25N5O5.ClH/c1-30-18-11-14-15(12-19(18)31-2)25-23(26-21(14)24)28-9-7-27(8-10-28)22(29)20-13-32-16-5-3-4-6-17(16)33-20;/h3-6,11-12,20H,7-10,13H2,1-2H3,(H2,24,25,26);1H
